US04518596
8-Methoxy-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimido-[5,4-d]-pyrimidine
This compound was prepared analogous to Example 2 from 2-chloro-8-methoxy-4-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine (m.p.: 218°-221° C.) and piperazine.

reactant | 2-chloro-8-methoxy-4-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)OC)N2CCS(CC2)=O | C11H12ClN5O2S
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 8-Methoxy-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimido-[5,4-d]-pyrimidine | COC1=NC=NC2=C1N=C(N=C2N2CCS(CC2)=O)N2CCNCC2 | C15H21N7O2S
